US08217066B2
Step 1: 4-Bromomethyl-5-(4-bromo-phenyl)-3-methyl-isoxazole
[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol (2.88 g, 10.74 mmol) in DME (23 mL) was treated with phosphorus tribromide (1.5 mL, 16.11 mmol) and the reaction was stirred at room temperature for 1 hour. Aqueous workup provided the title compound.

reactant | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | 10.74 mmol, 2.88 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CO | C11H10BrNO2
reactant | phosphorus tribromide | 16.11 mmol, 1.5 mL | P(Br)(Br)Br | Br3P
solvent | DME | 23 mL | COCCOC | C4H10O2
product | 4-Bromomethyl-5-(4-bromo-phenyl)-3-methyl-isoxazole | BrCC=1C(=NOC1C1=CC=C(C=C1)Br)C | C11H9Br2NO
